US06495546B1
Under nitrogen, to a suspension of sodium hydride (60% in oil, 300 mg) in N,N-dimethylformamide (20 ml) was added N-benzyl-N-(3-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-tert-butoxycarbonylamine (2.5 g) in N,N-dimethylformamide (25 ml) at 5° C. After being stirred at room temperature for 30 minutes, to this one were added ethyl bromoacetate (0.75 ml) and tetra-n-butylammonium bromide (1.1 g) at 5° C., and the mixture was stirred at room temperature for 32 hours. The resulting mixture was poured into saturated aqueous sodium hydrogencarbonate and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=5:1) to give 2-[8-(N-benzyl-N-tert-butoxycarbonylamino)-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetic acid ethyl ester (1.6 g).

reactant | sodium hydride | 300 mg | [H-].[Na+]
reactant | N-benzyl-N-(3-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-tert-butoxycarbonylamine | 2.5 g | C(C1=CC=CC=C1)N(C1CC2=C(CCC1)C=CC(=C2)O)C(=O)OC(C)(C)C | C23H29NO3
reactant | ethyl bromoacetate | 0.75 ml | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
catalyst | tetra-n-butylammonium bromide | 1.1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-[8-(N-benzyl-N-tert-butoxycarbonylamino)-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetic acid ethyl ester | 1.6 g | C(C)OC(COC=1C=CC2=C(CC(CCC2)N(C(=O)OC(C)(C)C)CC2=CC=CC=C2)C1)=O | C27H35NO5
